US04551452
4-[1-(Methoxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the method of Example 6, using a reflux time of 1 hour prior to addition of a sodium iodide, piroxicam (2.00 g, 6.0 mmol) and alpha-chloroethyl methyl carbonate (2.50 g, 18.1 mmol) were converted to chromatographed title product as a yellow solid which was crystallized from isopropyl alcohol (660 mg, 1.5 mmol, 25.0%): mp 150°-151° C.; IR (KBr) 1757, 1677 cm-1 ; 1H NMR (CDCl3) delta 1.75 (d, J=6 Hz, 3H), 3.12 (s, 3H), 3.65 (s, 3H), 6.35 (q, J=6 Hz, 1H), 7.07-7.18 (m, 1H), 7.65-7.95 (m, 5H), 8.30-8.42 (m, 2H), 9.42 (br s, 1H); precise mass calcd for C19H19N3O7S m/e 433.0944, found 433.1004.

reactant | sodium iodide | [I-].[Na+]
reactant | piroxicam | 6.0 mmol, 2.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | alpha-chloroethyl methyl carbonate | 18.1 mmol, 2.50 g | C(OC(C)Cl)(OC)=O | C4H7ClO3
reactant | isopropyl alcohol | 1.5 mmol, 660 mg | C(C)(C)O | C3H8O
reactant | KBr | [K+].[Br-]
product | 4-[1-(Methoxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | COC(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C19H19N3O7S
